US07161031B2
Step 5: Preparation of 2,4,6-Trimethoxy styryl-N-(3-Amino-4-methoxyphenyl) Sulfonamide
2,4,6-trimethoxystyryl-N-(4-methoxy-3-nitrophenyl)sulfonamide (7 mmol) was dissolved in ethanol (55 mL) in a round bottomed flask. Palladium catalyst (5% Pd/C, 275 mg) was added. Hydrazine hydrate (182 mmol) was then added in one porion. The resulting misture was refluxed for 5 h and the reaction prgress was monitored by TLC. When the reaction was complete, the palladium catalyst was removed by filtration and the filtrate was poured into a beaker containing ice cold water. The solution was stirred and a solid precipitate formed. The precipitated material was separated by filtration and dried in vacuum. (m.p. 143–145; yield 48%).

reactant | 2,4,6-trimethoxystyryl-N-(4-methoxy-3-nitrophenyl)sulfonamide | 7 mmol | COC1=C(C=CS(=O)(=O)NC2=CC(=C(C=C2)OC)[N+](=O)[O-])C(=CC(=C1)OC)OC | C18H20N2O8S
reactant | Hydrazine hydrate | 182 mmol | O.NN
solvent | ethanol | 55 mL | C(C)O | C2H6O
catalyst | Palladium | 275 mg | [Pd] | Pd
product | 2,4,6-Trimethoxy styryl-N-(3-Amino-4-methoxyphenyl) Sulfonamide | yield 48% | COC1=C(C=CS(=O)(=O)NC2=CC(=C(C=C2)OC)N)C(=CC(=C1)OC)OC | C18H22N2O6S
